US06310095B1
N-(2-Butylphenyl)-N-(2-cyclohexylethyl)amine
The desired anine was prepared using the method described in Example 1171A starting with cyclohexylacetic acid and 2-butylaniline. m/e (DCI/NH3) 260 (MH+)

reactant | cyclohexylacetic acid | C1(CCCCC1)CC(=O)O | C8H14O2
reactant | 2-butylaniline | C(CCC)C1=C(N)C=CC=C1 | C10H15N
reactant | NH3 | N | H3N
product | N-(2-Butylphenyl)-N-(2-cyclohexylethyl)amine | C(CCC)C1=C(C=CC=C1)NCCC1CCCCC1 | C18H29N
